** GENERATED by `analog-db export-raw` — DO NOT EDIT.
** Standalone lowered DUT subckt for amp_033_ti_ldo_ref_selfbias on gf180mcu (sizing .param defaults + .subckt).
** Not a runnable deck on its own — include it under your own testbench:
**   .include _dut.spice
**   XDUT vdd vout vinp vinn vss amp_033_ti_ldo_ref_selfbias
** Source: pdk/gf180mcu/netlist.spice (run `analog-db generate` to refresh).
*----------------------------------------------------------*
** params: 16 free + 0 frozen knobs (sizing.yaml) · 6 tied · 0 ratio-derived (abstract/params.yaml)
.param x_dut_xmbp_w=10.844u
.param x_dut_xmbp_l=2u
.param x_dut_xmb0_w=12u
.param x_dut_xmb0_l=2u
.param x_dut_xmbc_w=8.316u
.param x_dut_xmbc_m=1
.param x_dut_xmbo_w=4u
.param x_dut_xmbo_m=1
.param x_dut_xm1_w=86.42u
.param x_dut_xm1_l=0.7u
.param x_dut_xm3_w=20u
.param x_dut_xm3_l=1u
.param x_dut_xm5_w=37.76u
.param x_dut_xm5_l=2.646u
.param r_z=30.853k
.param c_comp=4.508p
* ---- GENERATED parameter ties (abstract/params.yaml groups/ratios) ----
* Each tied symbol is defined exactly once, by its line below; rewrite that
* .param to untie just that symbol (untying = shadowing, plan D-3).
.param x_dut_xm4_w = {x_dut_xm3_w}
.param x_dut_xm4_l = {x_dut_xm3_l}
.param x_dut_xm2_w = {x_dut_xm1_w}
.param x_dut_xm2_l = {x_dut_xm1_l}
.param x_dut_xmbc_l = {x_dut_xmb0_l}
.param x_dut_xmbo_l = {x_dut_xmb0_l}
.subckt amp_033_ti_ldo_ref_selfbias vdd vout vinp vinn vss
CC ncz vout 'c_comp'
RZ nb ncz 'r_z'
XM1 na vinn tail vss nfet_06v0 l=x_dut_xm1_l w=x_dut_xm1_w
XM2 nb vinp tail vss nfet_06v0 l=x_dut_xm2_l w=x_dut_xm2_w
XM3 na na vdd vdd pfet_06v0 l=x_dut_xm3_l w=x_dut_xm3_w
XM4 nb na vdd vdd pfet_06v0 l=x_dut_xm4_l w=x_dut_xm4_w
XM5 vout nb vdd vdd pfet_06v0 l=x_dut_xm5_l w=x_dut_xm5_w
XMB0 ibias ibias vss vss nfet_06v0 l=x_dut_xmb0_l w=x_dut_xmb0_w
XMBC tail ibias vss vss nfet_06v0 l=x_dut_xmbc_l m=x_dut_xmbc_m w=x_dut_xmbc_w
XMBO vout ibias vss vss nfet_06v0 l=x_dut_xmbo_l m=x_dut_xmbo_m w=x_dut_xmbo_w
XMBP ibias ibias vdd vdd pfet_06v0 l=x_dut_xmbp_l w=x_dut_xmbp_w
.ends
